US07163937B2
(S)-3-Benzyloxycarbonylamino-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-methylcyclohexyl)pyrrolidin-2-one (47 mg) in MeOH (5 mL) was charged with 20% Pd(OH)2 (70 mg). The reaction flask was evacuated and then back-filled with hydrogen; this was repeated three more times. The reaction was stirred under 1 atm of H2 for 4 h and then filtered and concentrated to provide (S)-3-amino-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-methylcyclohexyl)pyrrolidin-2-one (30 mg). MS (ES+)=268.3 (M+H)+.

reactant | (S)-3-Benzyloxycarbonylamino-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-methylcyclohexyl)pyrrolidin-2-one | 47 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)C)=O | C23H35N3O3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd(OH)2 | 70 mg | [OH-].[OH-].[Pd+2]
product | (S)-3-amino-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-methylcyclohexyl)pyrrolidin-2-one | 30 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)C)=O | C15H29N3O
